US05663053
b) 1-(8-Bromooctyl)-4,5-diphenyl-1,2,3-triazole
4,5-Diphenyl-1,2,3-triazole was treated with 1,8-dibromooctane and potassinm carbonate in butanone to give after chromatographic work up the title compound, m.p. 90°-91° C, Found: C, 64.0; H, 6.5; N, 10.1; Br, 19.8%; C22H26BrN3 requires: C, 64.1; H, 6.4; N, 10.2; Br, 19.4%.

reactant | 4,5-Diphenyl-1,2,3-triazole | C1(=CC=CC=C1)C=1N=NNC1C1=CC=CC=C1 | C14H11N3
reactant | 1,8-dibromooctane | BrCCCCCCCCBr | C8H16Br2
reactant | carbonate | C([O-])([O-])=O
solvent | butanone | CC(CC)=O | C4H8O
product | 1-(8-Bromooctyl)-4,5-diphenyl-1,2,3-triazole | BrCCCCCCCCN1N=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1 | C22H26BrN3
